US06034099
From the reaction of 4-nitrophenylhydrazine and ethylbutyrylacetate, 2,4-dihydro-2-(4-nitrophenyl)-5-propyl-3H-pyrazol-3-one is obtained. Subsequent reaction with 2-ethylaniline yields 4-(2-ethylanilinomethylene)-2,4-dihydro-2-(4-nitrophenyl)-5-propyl-3H-pyrazol-3-one, Mp 211° C.

reactant | 4-nitrophenylhydrazine | [N+](=O)([O-])C1=CC=C(C=C1)NN | C6H7N3O2
reactant | ethylbutyrylacetate | C(C)CCCC(=O)CC(=O)[O-]
product | 2,4-dihydro-2-(4-nitrophenyl)-5-propyl-3H-pyrazol-3-one | [N+](=O)([O-])C1=CC=C(C=C1)N1N=C(CC1=O)CCC | C12H13N3O3
